US05053509
Working under the conditions of Example 16, but starting with 7,8-difluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid (1.16 g) and (RS)-2-(4-amino-3-methoxyphenyl)piperazine (1.82 g), (RS)-8-[3-(4-amino-3-methoxyphenyl)-1-piperazinyl]-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]-naphthyridine-3-carboxylic acid (1.40 g) is obtained in the form of a yellow solid, decomposing at 259° C.

reactant | 7,8-difluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid | 1.16 g | FC1=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C)C=C1F | C14H8F2N2O3
reactant | (RS)-2-(4-amino-3-methoxyphenyl)piperazine | 1.82 g | NC1=C(C=C(C=C1)C1NCCNC1)OC | C11H17N3O
product | (RS)-8-[3-(4-amino-3-methoxyphenyl)-1-piperazinyl]-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]-naphthyridine-3-carboxylic acid | 1.40 g | NC1=C(C=C(C=C1)C1CN(CCN1)C=1C=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C)C1)OC | C25H25N5O4
